US08809372B2
To a solution of N,2-dihydroxyacetimidamide (2.7 g, 26.4 mmol) in pyridine (20 mL) was added dropwise 4-fluorobenzoyl chloride (3 g, 18.9 mmol) in DCM (30 mL) at 0° C. to 10° C. The reaction was stirred for 6 hours at room temperature and the solid was filtered and washed with DCM (50 mL). The solid was dissolved in ethanol and the solution refluxed for 16 hours at 85° C. The mixture was evaporated under reduced pressure. The crude product was purified by silica gel column chromatography (100-200 mesh; using 10% ethyl acetate in hexane) to obtain 1-(5-(4-fluorophenyl)-1,2,4-oxadiazol-3-yl)ethanol as white solid (0.35 g, 9% yield). 1H NMR (400 MHz, CDCl3): δ 8.14 (dd, 1H), 7.20 (dd, 1H), 5.06 (q, 1H), 1.66 (d, 3H).

reactant | N,2-dihydroxyacetimidamide | 26.4 mmol, 2.7 g | ONC(CO)=N | C2H6N2O2
reactant | 4-fluorobenzoyl chloride | 18.9 mmol, 3 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-(5-(4-fluorophenyl)-1,2,4-oxadiazol-3-yl)ethanol | 0.35 g, 9% yield | FC1=CC=C(C=C1)C1=NC(=NO1)C(C)O | C10H9FN2O2
